US04772600
2-(4-Chlorophenyl)-3-[2-oxo-2-(3-thiazolidinyl)ethyl]-3H-imidazo[4,5-b]pyridine
A suspension of 2-(4-chlorophenyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid (5.0 g, 0.0174 mole), 1,1'-carbonyldiimidazole (2.82 g, 0.0174 mole) and dry tetrahydrofuran (100 ml) was stirred at room temperature for 3.5 hours while nitrogen was bubbled through it. Solid thiazolidine (2.33 g, 0.0261 mole) was added and the reaction mixture was stirred at 55° C., under nitrogen overnight. The solvent was removed under reduced pressure. The resulting white solid was triturated with water (100 ml), filtered, rinsed with water, twice with 5% potassium hydroxide solution and twice more with water. The resulting solid was heated in boiling isopropyl alcohol and filtered hot. Upon cooling to room temperature, a white solid precipitated. The solid was collected by filtration and dried under high vacuum to give 3.08 g (49.4%) of title compound, mp. 215°-218° C.

reactant | 2-(4-chlorophenyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid | 0.0174 mole, 5.0 g | ClC1=CC=C(C=C1)C1=NC=2C(=NC=CC2)N1CC(=O)O | C14H10ClN3O2
reactant | 1,1'-carbonyldiimidazole | 0.0174 mole, 2.82 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | thiazolidine | 0.0261 mole, 2.33 g | S1CNCC1 | C3H7NS
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 2-(4-Chlorophenyl)-3-[2-oxo-2-(3-thiazolidinyl)ethyl]-3H-imidazo[4,5-b]pyridine | 3.08 g, 49.4% | ClC1=CC=C(C=C1)C1=NC=2C(=NC=CC2)N1CC(N1CSCC1)=O | C17H15ClN4OS
